US04994106
(c) 2- Butyryl-5-(4-ethylphenyl)-3-hydroxy-2-cyclohexen-1-one
51 g (0.51 mol) of triethylamine and--with ice cooling--54 g (0.51 mol) of butyryl chloride are dripped into a solution of 110 g 0.51mol) of the 5-(4-ethylphenyl)-3-hydroxy-2-cyclohexen-1-one, obtained in accordance with the foregoing instructions, in 500 ml of tetrahydrofuran. After 8 hours at room temperature, the mixture is filtered and the precipitate is washed with tetrahydrofuran. The filtrate is concentrated, the residue is taken up in 500 ml of ethyl acetate and 6.2 g of 4-N,N-dimethylaminopyridine is added. The homogeneous solution is kept for 40 hours at room temperature, is then concentrated and the residue is taken up in 10% strength potassium hydroxide solution. The undissolved constituents are separated off, and the filtrate is acidified to pH 1. The product which precipitates out is filtered off and dried under reduced pressure.

reactant | triethylamine | 0.51 mol, 51 g | C(C)N(CC)CC | C6H15N
reactant | butyryl chloride | 0.51 mol, -54 g | C(CCC)(=O)Cl | C4H7ClO
reactant | 5-(4-ethylphenyl)-3-hydroxy-2-cyclohexen-1-one | C(C)C1=CC=C(C=C1)C1CC(=CC(C1)=O)O | C14H16O2
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 2- Butyryl-5-(4-ethylphenyl)-3-hydroxy-2-cyclohexen-1-one | C(CCC)(=O)C=1C(CC(CC1O)C1=CC=C(C=C1)CC)=O | C18H22O3
